US05556864
31(a) 1-t-Butoxycarbonyl-2-{2-[2-(4-phenylbutyl)-phenoxy]ethyl}piperidine
Following a procedure similar to that described in Example 5(a), 1.69 g of 2-(4-phenylbutyl)phenol (prepared as described in Preparation 3), 1.72 g of 1-t-butoxycarbonyl-2-(2-hydroxyethyl)piperidine, 5.9 g of triphenylphosphine and 3.92 g of diethyl azodicarboxylate were reacted in 75 ml of methylene chloride. The crude oily product, extracted as described in Example 5(a), was purified by column chromatography through silica gel, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.13 g (yield 34%) of the title compound as an oil.

reactant | 2-(4-phenylbutyl)phenol | 1.69 g | C1(=CC=CC=C1)CCCCC1=C(C=CC=C1)O | C16H18O
reactant | 1-t-butoxycarbonyl-2-(2-hydroxyethyl)piperidine | 1.72 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
reactant | triphenylphosphine | 5.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.92 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 1-t-Butoxycarbonyl-2-{2-[2-(4-phenylbutyl)-phenoxy]ethyl}piperidine | 1.13 g, yield 34% | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C=CC=C1)CCCCC1=CC=CC=C1 | C28H39NO3
